US07141583B2
(5R)-3-(4-Methylthiophenyl)-5-(pyrazol-1-ylmethyl)oxazolidin-2-one
Sodium hydride (80% in oil, 63 mg, 2.1 mM) was stirred under nitrogen in N,N-dimethylformamide (2 ml), (5R)-3-(4-methylthiophenyl)-5-methanesulfonyloxymethyl-oxazolidin-2-one (630 mg, 2 mM) dissolved in N,N-dimethylformamide (10 ml) added, followed by pyrazole (140 mg, 2 mM) dissolved in N,N-dimethylformamide (2 ml). Stirring was continued for 1.5 hours at ambient temperature. After diluting with water (30 ml) and stirring for 1 hour, the precipitate was filtered to give the desired product (190 mg, mp 72–73°).

reactant | Sodium hydride | 2.1 mM, 63 mg | [H-].[Na+]
reactant | (5R)-3-(4-methylthiophenyl)-5-methanesulfonyloxymethyl-oxazolidin-2-one | 2 mM, 630 mg | CSC1=CC=C(C=C1)N1C(O[C@H](C1)COS(=O)(=O)C)=O | C12H15NO5S2
reactant | pyrazole | 2 mM, 140 mg | N1N=CC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | (5R)-3-(4-Methylthiophenyl)-5-(pyrazol-1-ylmethyl)oxazolidin-2-one | 190 mg | CSC1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=CC=C1)=O | C14H15N3O2S
